US05155268
N-[4-[3-(Ethylheptylamino)-1-oxopropyl]phenyl]methanesulfonamide, Chart II; Step I
The Bis(ethylheptylamino)methane (0.95 g, 3.2 mmol) of Preparation 15 in 8 ml of tetrahydrofuran (THF), under nitrogen, is cooled in an ice bath and treated dropwise over 2 min with 0.23 ml (0.25 g, 3.2 mmol) of acetyl chloride; the mixture is stirred 15 min in the cold and 45 min at ambient temperature. The mixture is cooled in an ice bath and a solution of N-(4-acetylphenyl)methanesulfonamide, as described in Preparation 1, (dried by azeotrope from carbon tetrachloride then benzene) (0.68 g, 3.2 mmol) in 10 ml of THF is added dropwise over 5 min. It is stirred in the cold for 1 hr then at room temperature for 72 hrs. The solvent is removed in vacuo (bath <30° C.) and the residue partitioned between cold diluted HCl and ether. The layers are separated and the aqueous layer is extracted with additional ether (4×50 ml). The pooled ether extract is washed with cold diluted HCl. The aqueous layers are combined and brought to pH 8.5 with saturated NaHCO3. This is extracted with ethyl acetate (3×75 ml). The pooled ethyl acetate extract is washed with brine, dried (Na2SO4), acidified with excess ethereal HCl and concentrated to give a mixture which includes the title compound that can be used without further purification.

reactant | Bis(ethylheptylamino)methane | 3.2 mmol, 0.95 g | C(C)N(CCCCCCC)CN(CC)CCCCCCC | C19H42N2
reactant | acetyl chloride | 3.2 mmol, 0.23 ml, 0.25 g | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-acetylphenyl)methanesulfonamide | C(C)(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H11NO3S
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-[4-[3-(Ethylheptylamino)-1-oxopropyl]phenyl]methanesulfonamide | C(C)N(CCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C)CCCCCCC | C19H32N2O3S
